US05037829
To a stirred solution of 4.6 parts of 2-amino-4-[(1H-imidazol-1-yl)phenylmethyl]benzamide in 90 parts of tetrahydrofuran were added 3.52 parts of 1,1'-carbonylbis[1H-imidazole]. The mixture was stirred first overnight at room temperature and then for 48 hours at reflux temperature. The solution was concentrated under reduced pressure and the concentrate was treated with water. The product was extracted with dichloromethane. A white product was precipitated in the dichloromethane layer. This product was filtered off and crystallized from hot acetonitrile. The product was filtered off, washed with acetonitrile and 2,2'-oxybispropane and dried in vacuo at 60°-70° C., yielding 1.77 parts (35.4%) of 7-[(1H-imidazol-1-yl)phenylmethyl]-2,4(1H,3H)-quinazolinedione; mp. 287.2° C. (comp. 29).

reactant | 2-amino-4-[(1H-imidazol-1-yl)phenylmethyl]benzamide | NC1=C(C(=O)N)C=CC(=C1)C(C1=CC=CC=C1)N1C=NC=C1 | C17H16N4O
reactant | 1,1'-carbonylbis[1H-imidazole] | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-[(1H-imidazol-1-yl)phenylmethyl]-2,4(1H,3H)-quinazolinedione | 35.4% | N1(C=NC=C1)C(C1=CC=C2C(NC(NC2=C1)=O)=O)C1=CC=CC=C1 | C18H14N4O2
